US08664288B2
1-Phenylaminocarbonyl-1,3-dicyclohexyl-O—(N-2-butylideneamino)-isourea (Cmpd. 14)
To a solution of 1,3-dicyclohexyl-O—(N-2-butylideneamino)-isourea (Cmpd. 2) (2.93 g, 10 mmol) in dichloromethane (15 ml) is phenylisocyanate (1.19 g, 10 mmol). The mixture is stirred 1 h at room temperature and evaporated to afford 4.12 g of the title compound as a light yellow oil.

reactant | 1,3-dicyclohexyl-O—(N-2-butylideneamino)-isourea | 10 mmol, 2.93 g | C1(CCCCC1)NC(ON=C(C)CC)=NC1CCCCC1 | C17H31N3O
reactant | phenylisocyanate | 10 mmol, 1.19 g | C1(=CC=CC=C1)N=C=O | C7H5NO
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | 1-Phenylaminocarbonyl-1,3-dicyclohexyl-O—(N-2-butylideneamino)-isourea | 4.12 g | C1(=CC=CC=C1)NC(=O)N(C(ON=C(C)CC)=NC1CCCCC1)C1CCCCC1 | C24H36N4O2
